US05880147
N-(2-t-Butyl-5-carbamoylphenyl)-3-[4-(1-oxobutyl)-2-methoxyphenyl]octanamide (Compound No. 272)
210 mg (1.30 mmol) of N,N'-carbonyldiimidazole were added to a suspension of 530 mg (1.07 mmol) of N-(2-t-butyl-5-carboxyphenyl)-3-(4-butyryl-2-methoxyphenyl)octanamide prepared as described in Preparation 64C), in 10 ml of acetonitrile, and the resulting mixture was stirred for 35 minutes, after which 1.0 ml (15 mmol) of concentrated aqueous ammonia were added. The reaction mixture was stirred for 20 minutes, after which it was freed from the organic solvent by distillation under reduced pressure. The concentrate was extracted with ethyl acetate. The extract was washed with 2N aqueous hydrochloric acid, with water, with a saturated aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through 50 g of silica gel using a gradient elution method, with mixtures of hexane and ethyl acetate ranging from 1:9 to 0:9 by volume as the eluent, to give 511 mg (yield 97%) of the title compound as a foam-like substance.

reactant | N-(2-t-butyl-5-carboxyphenyl)-3-(4-butyryl-2-methoxyphenyl)octanamide | 1.07 mmol, 530 mg | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)O)NC(CC(CCCCC)C1=C(C=C(C=C1)C(CCC)=O)OC)=O | C30H41NO5
reactant | ammonia | 15 mmol, 1.0 ml | N | H3N
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-(2-t-Butyl-5-carbamoylphenyl)-3-[4-(1-oxobutyl)-2-methoxyphenyl]octanamide | 511 mg, yield 97% | C(C)(C)(C)C1=C(C=C(C=C1)C(N)=O)NC(CC(CCCCC)C1=C(C=C(C=C1)C(CCC)=O)OC)=O | C30H42N2O4
